US03988342
1-Methyl-4-(10-bromo-5H-dibenzo[a,d]cyclohepten-5-ylidene)-piperidine
To 600 ml. of a 0.40 M (0.24 mole) solution of potassium t-butoxide in t-butanol is added 42.1 g. (0.079 mole) of 1-methyl-4-(10,11-dibromo-10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-ylidene)-piperidine hydrobromide and the mixture stirred vigorously under anhydrous conditions for 6 hours at room temperature. The reaction mixture is poured into 2 l. of water and extracted 3 times with 100 ml. each of benzene. The combined benzene extracts are dried over anhydrous MgSO4, filtered, the MgSO4 washed with benzene, and the benzene solution evaporated to dryness on a rotary evaporator. There remains 27.9 g. of crystalline product. This product is recrystallized by dissolving in 750 ml. of boiling hexane, filtered hot, the volume reduced to 200 ml. by boiling off hexane, seeding and allowing to crystallize. The crystals are collected and dried in a vacuum oven at 60° C. overnight to give 1-methyl-4-(10-bromo-5H-dibenzo[a,d]cyclohepten-5-ylidene)-diperidine; m.p. 127°-129° C. Three more recrystallizations from hexane give an analytical sample with m.p. 130°-131° C.

reactant | potassium t-butoxide | CC(C)([O-])C.[K+]
reactant | 1-methyl-4-(10,11-dibromo-10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-ylidene)-piperidine hydrobromide | 0.079 mole | Br.CN1CCC(CC1)=C1C2=C(C(C(C3=C1C=CC=C3)Br)Br)C=CC=C2
solvent | t-butanol | C(C)(C)(C)O | C4H10O
product | 1-Methyl-4-(10-bromo-5H-dibenzo[a,d]cyclohepten-5-ylidene)-piperidine | CN1CCC(CC1)=C1C2=C(C(=CC3=C1C=CC=C3)Br)C=CC=C2 | C21H20BrN
